US08859591B2
A round bottom flask was charged with methyl 4-(tetrahydro-2H-pyran-4-carbonyl)benzoate (150 mg, 572 mmol), 6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-amine (130 mg, 572 mmol) and MeOH (1.2 mL). Decaborane reagent (26.4 mg, 229 mmol) was added in one portion and the reaction stirred over the week-end. The reaction mixture was quenched with HCl solution (1N, aq.) and extracted with EtOAc twice. The combined organic layers were washed with brine, dried over Na2SO4 and concentrated under reduced pressure. Purification by slica gel flash chromatography (ethyl acetate/heptane) provide (±)-methyl 4-((tetrahydro-2H-pyran-4-yl)((6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-yl)amino)methyl)benzoate (206 mg, 78%) as a colorless gum. MS (M+1): 461.3.

reactant | methyl 4-(tetrahydro-2H-pyran-4-carbonyl)benzoate | 572 mmol, 150 mg | O1CCC(CC1)C(=O)C1=CC=C(C(=O)OC)C=C1 | C14H16O4
reactant | 6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-amine | 572 mmol, 130 mg | FC(C=1C=NN(C1)C1=CC=C(C=N1)N)(F)F | C9H7F3N4
reactant | Decaborane | 229 mmol, 26.4 mg | [B][B][B][B][B][B][B][B][B][B] | B10
solvent | MeOH | 1.2 mL | CO | CH4O
product | (±)-methyl 4-((tetrahydro-2H-pyran-4-yl)((6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-yl)amino)methyl)benzoate | 206 mg, 78% | O1CCC(CC1)C(C1=CC=C(C(=O)OC)C=C1)NC=1C=NC(=CC1)N1N=CC(=C1)C(F)(F)F | C23H23F3N4O3
